US04956360
2-(4-Chlorostyryl)-5,6,7,8-tetrahydro-4H-thiazolo[5,4-b]-azepine
3-(4-Chlorocinnamoyl)amino-ε-caprolactam (11.0 g) and phosphorus pentasulfide (8.37 g) were added to 500 ml of pyridine, and the whole was refluxed for 1.5 hrs. After cooling, the reaction mixture was added to a sodium hydrogen carbonate solution and extracted with chloroform. The extract was washed with water, dried and the solvent was distilled off under reduced pressure. The residue was purified by a column chromatography on silica gel, and recrystallized from cyclohexane to give the title compound as crystals, m.p. 188°-189° (yield 6.28 g, 57 % of theory).

reactant | 3-(4-Chlorocinnamoyl)amino-ε-caprolactam | 11.0 g | ClC1=CC=C(C=CC(=O)NC2CC(=O)NCCC2)C=C1 | C15H17ClN2O2
reactant | phosphorus pentasulfide | 8.37 g | P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | P4S10
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
reactant | pyridine | 500 ml | N1=CC=CC=C1 | C5H5N
product | 2-(4-Chlorostyryl)-5,6,7,8-tetrahydro-4H-thiazolo[5,4-b]-azepine | ClC1=CC=C(C=CC=2SC=3NCCCCC3N2)C=C1 | C15H15ClN2S
